US07005436B2
Benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (0.266 g, 0.602 mmol) was added to a solution of 4-(2-fluoro-benzyl)-piperidine-4-carboxylic acid [2-(4-ethyl-phenyl)-ethyl]-amide (0.185 g, 0.502 mmol), 3-(4-fluoro-phenyl)-propionic acid (0.101 g, 0.602 mmol) and triethylamine (0.210 mL, 1.51 mmol) in tetrahydrofuran (5 mL). After 1 h the mixture was diluted with ethyl ether (20 mL), washed with saturated aqueous sodium bicarbonate (20 mL) followed by water (2×10 mL). The organic layer was collected, concentrated under reduced pressure and the crude product purified by column chromatography to give 0.105 g (40%) of 4-(2-fluoro-benzyl)-1-[3-(4-fluoro-phenyl)-propionyl]-piperidine-4-carboxylic acid [2-(4-ethyl-phenyl)-ethyl]-amide LRMS m/z 519.2 (M+H)+.

reactant | Benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.602 mmol, 0.266 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-(2-fluoro-benzyl)-piperidine-4-carboxylic acid [2-(4-ethyl-phenyl)-ethyl]-amide | 0.502 mmol, 0.185 g | C(C)C1=CC=C(C=C1)CCNC(=O)C1(CCNCC1)CC1=C(C=CC=C1)F | C23H29FN2O
reactant | 3-(4-fluoro-phenyl)-propionic acid | 0.602 mmol, 0.101 g | FC1=CC=C(C=C1)CCC(=O)O | C9H9FO2
reactant | triethylamine | 1.51 mmol, 0.210 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl ether | 20 mL | C(C)OCC | C4H10O
product | 4-(2-fluoro-benzyl)-1-[3-(4-fluoro-phenyl)-propionyl]-piperidine-4-carboxylic acid [2-(4-ethyl-phenyl)-ethyl]-amide | 0.105 g, 40% | C(C)C1=CC=C(C=C1)CCNC(=O)C1(CCN(CC1)C(CCC1=CC=C(C=C1)F)=O)CC1=C(C=CC=C1)F | C32H36F2N2O2
